US04888283
5.08 g of 2,6-bis(2-hydroxyethoxy)benzaldehyde dissolved in 100 ml of anhydrous methanol are treated with 15.6 g of ammonium acetate and 12 g of sodium cyanoborohydride, then stirred under nitrogen blanket at 25°-30° C. for 48 hours, then adjusted to pH=1 with concentrated hydrochloric acid and evaporated at reduced pressure. The solid residue is treated with 30 ml of water and extracted with 20 ml of ethyl acetate, said volume being divided previously into two portions. The water phase, after elimination of the small amount of ethyl acetate dissolved, such removal being carried out under reduced pressure, is adjusted to pH=11 with a 25% solution of potassium hydroxide and then extracted with tetrahydrofuran. The extracts are dried with anhydrous potassium carbonate, then evaporated under reduced pressure, dissolved with 30 ml of a 1/1 mixture of tetrahydrofuran/ethyl ether, and afterwards saturated with gaseous hydrogen chloride and filtered. The solid, after washing with anhydrous ethyl ether, drying under reduced pressure and crystallization from a mixture of ethanol/acetonitrile, gives 2,6-bis(hydroxyethoxy)benzylamine hydrochloride with a yield of 92%; melting point is 166°-168° C. I.R. (KBr), 3325 cm-1 (OH), 2605 cm-1 (NH3+), 1262 cm-1 (aromatic C--O), 779 cm-1 (phenyl).

reactant | 2,6-bis(2-hydroxyethoxy)benzaldehyde | 5.08 g | OCCOC1=C(C=O)C(=CC=C1)OCCO | C11H14O5
reactant | ammonium acetate | 15.6 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 12 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 2,6-bis(hydroxyethoxy)benzylamine hydrochloride | yield of 92% | Cl.OCCOC1=C(CN)C(=CC=C1)OCCO | InChI=1S/C11H17NO4.ClH/c12-8-9-10(15-6-4-13)2-1-3-11(9)16-7-5-14;/h1-3,13-14H,4-8,12H2;1H
